US08309546B2
N-Methyl-5-{8-[4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl}pyrimidin-2-amine
A mixture of 5-[8-chloro-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl]-N-methylpyrimidin-2-amine (100 mg, 0.23 mmol), N-methanesulfonylpiperazine (114 mg, 0.70 mmol), and dimethyl sulfoxide (1 ml) was stirred at 150° C. for 4 hours. The mixture was purified by preparative HPLC (column, NOMURA Develosil Combi-RP-5; mobile phase, acetonitrile/water/formic acid) to give the title compound (32 mg, 25%) as a light brown solid.

reactant | 5-[8-chloro-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl]-N-methylpyrimidin-2-amine | 0.23 mmol, 100 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)NC)CC1COCC1 | C19H23ClN8O2
reactant | N-methanesulfonylpiperazine | 0.70 mmol, 114 mg | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
product | N-Methyl-5-{8-[4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl}pyrimidin-2-amine | 32 mg, 25% | CNC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC1COCC1)N1CCN(CC1)S(=O)(=O)C)N1CCOCC1 | C24H34N10O4S
